US07638541B2
Step 1: 3-(4-Chloromethyl-thiazol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 3-Thiocarbamoyl-piperidine-1-carboxylic acid tert-butyl ester (2.2 g, 9.02 mmol) in acetone (45 mL) was added 1,3-dichloroacetone (1.49 g, 11.7 mmol), MgSO4 (1.63 g, 13.5 mmol) and MgCO3 (0.76 g, 9.02 mmol). The mixture was heated under reflux overnight, cooled and filtered through celite. The solvent was removed in vacuo and the residue was redissolved with EtOAc (20 mL). The resulting solution was washed successively with 5% NaHSO3, saturated NaHCO3, and brine. After drying (Na2SO4), the solvent was removed to afford the desired product which was used without further purification.

reactant | 3-Thiocarbamoyl-piperidine-1-carboxylic acid tert-butyl ester | 9.02 mmol, 2.2 g | C(C)(C)(C)OC(=O)N1CC(CCC1)C(N)=S | C11H20N2O2S
reactant | 1,3-dichloroacetone | 11.7 mmol, 1.49 g | ClCC(=O)CCl | C3H4Cl2O
reactant | MgSO4 | 13.5 mmol, 1.63 g | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | acetone | 45 mL | CC(=O)C | C3H6O
product | 3-(4-Chloromethyl-thiazol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CCC1)C=1SC=C(N1)CCl | C14H21ClN2O2S
